US07402680B2
1-Benzyl-3-(3-chloro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (193.3 mg) was prepared from 0.50 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 260 μL of benzylamine, and 0.45 g of 1-chloro-3-(2-nitro-vinyl)-benzene as in Example 9. MS (ESI): exact mass calculated for C20H19ClN2, 322.12; found, m/z 323.2 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.36-7.20 (m, 6H), 7.14-7.07 (m, 3H), 6.81 (s, 1H), 5.01 (s, 2H), 4.04 (s, 2H), 3.14 (t, J=5.8 Hz, 2H), 2.51 (t, J=5.8 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 1-chloro-3-(2-nitro-vinyl)-benzene | 0.45 g | ClC1=CC(=CC=C1)C=C[N+](=O)[O-] | C8H6ClNO2
solvent | benzylamine | 260 μL | C(C1=CC=CC=C1)N | C7H9N
product | 1-Benzyl-3-(3-chloro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 193.3 mg | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C2=CC(=CC=C2)Cl | C20H19ClN2
